US04470826
Preparation of 3-nitro-4-amino-6-methyl-N-(γ-hydroxypropyl)-aniline of the formula
16.7 g (0.1 mol) of 3-nitro-4-amino-6-methylaniline, 40 ml of water, 6.6 g (0.066 mol) of calcium carbonate and 12.42 g (0.132 mol) of 3-chloropropan-1-ol are heated on a boiling water-bath for 7 hours 30 minutes, whilst stirring.

reactant | 3-nitro-4-amino-6-methylaniline | 0.1 mol, 16.7 g | [N+](=O)([O-])C=1C=C(N)C(=CC1N)C | C7H9N3O2
reactant | calcium carbonate | 0.066 mol, 6.6 g | C([O-])([O-])=O.[Ca+2]
reactant | 3-chloropropan-1-ol | 0.132 mol, 12.42 g | ClCCCO | C3H7ClO
solvent | water | 40 ml | O | H2O
product | 3-nitro-4-amino-6-methyl-N-(γ-hydroxypropyl)-aniline | [N+](=O)([O-])C=1C=C(NCCCO)C(=CC1N)C | C10H15N3O3
